data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N:3]1([c:10]2[c:32]([CH3:14])[cH:28][c:22]([CH3:19])[cH:31][c:35]2[CH3:17])[CH:27]=[CH:26][N:4]([c:11]2[c:33]([CH3:15])[cH:29][c:23]([CH3:20])[cH:30][c:34]2[CH3:16])[C:43]1=[CH2:24].[O:1]=[S:6](=[O:2])([C:8]([F:40])([F:41])[F:42])[c:37]1[cH:21][c:7]2[n+:9]([O-:5])[o:39][n:13][c:44]2[c:36]([N+:18]([O-:12])=[O:25])[cH:38]1>>[O:1]=[S:6](=[O:2])([C:8]([F:40])([F:41])[F:42])[C:37]1=[CH:38][C:36](=[N+:18]([O-:12])[O-:25])[c:44]2[c:7]([n+:9]([O-:5])[o:39][n:13]2)[CH:21]1[CH2:24][c:43]1[n+:3](-[c:10]2[c:32]([CH3:14])[cH:28][c:22]([CH3:19])[cH:31][c:35]2[CH3:17])[cH:27][cH:26][n:4]1-[c:11]1[c:33]([CH3:15])[cH:29][c:23]([CH3:20])[cH:30][c:34]1[CH3:16]", "epd": [["LP-/Pi+", [3], [43, 3]], ["Pi-/Sigma+", [24, 43], [24, 21]], ["Pi-/Pi+", [21, 37], [37, 38]], ["Pi-/Pi+", [38, 36], [36, 18]], ["Pi-/LP+", [18, 25], [25]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH2:2]1[CH2:13][c:29]2[c:11]3[c:30]([cH:24][n:28][cH:23]2)[CH2:14][CH2:3][CH2:26][N:7]3[CH2:25]1.[cH:1]1[cH:4][cH:16][cH:6][c:8]2[c:5]1[N+:20]([CH3:10])=[CH:15][C:12]2=[CH:9][c:19]1[cH:17][cH:21][cH:27][cH:22][cH:18]1>>[cH:1]1[cH:4][cH:16][cH:6][c:8]2[c:5]1[n:20]([CH3:10])[cH:15][c:12]2[CH:9]([c:19]1[cH:17][cH:21][cH:27][cH:22][cH:18]1)[N:28]1[CH:23]=[C:29]2[C:11]3=[N+:7]([CH2:25][CH2:2][CH2:13]2)[CH2:26][CH2:3][CH2:14][C:30]3=[CH:24]1", "epd": [["LP-/Pi+", [7], [11, 7]], ["Pi-/Pi+", [29, 11], [23, 29]], ["Pi-/Sigma+", [28, 23], [28, 9]], ["Pi-/Pi+", [9, 12], [12, 15]], ["Pi-/LP+", [15, 20], [20]]]}
{"reaction_name": "Activated aryl sulfone displacement", "rsmi": "[O-:3][CH3:6].[c:1]1([S:5](=[O:10])(=[O:11])[CH3:15])[cH:8][cH:13][c:2]([N+:4](=[O:7])[O-:12])[cH:14][cH:9]1>>[S-:5](=[O:10])(=[O:11])[CH3:15].[c:1]1([O:3][CH3:6])[cH:8][cH:13][c:2]([N+:4](=[O:7])[O-:12])[cH:14][cH:9]1", "epd": [["LP-/Sigma+", [3], [1, 3]], ["Sigma-/LP+", [1, 5], [5]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[CH:3]([C:15](=[O:16])[c:19]1[cH:9][cH:23][c:17]([N:22]([CH3:20])[CH3:21])[cH:24][cH:10]1)=[S:26]([CH3:12])[CH3:13].[O:1]=[S:6](=[O:2])([N:14]=[C:11]=[O:18])[c:27]1[cH:7][cH:4][c:25]([CH3:28])[cH:5][cH:8]1>>[O:1]=[S:6](=[O:2])([N-:14][C:11]([CH:3]([C:15](=[O:16])[c:19]1[cH:9][cH:23][c:17]([N:22]([CH3:20])[CH3:21])[cH:24][cH:10]1)[S+:26]([CH3:12])[CH3:13])=[O:18])[c:27]1[cH:7][cH:4][c:25]([CH3:28])[cH:5][cH:8]1", "epd": [["Pi-/Sigma+", [3, 26], [3, 11]], ["Pi-/LP+", [11, 14], [14]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:1](=[O+:9][CH3:8])[c:10]1[cH:6][cH:4][cH:3][cH:5][cH:7]1.[Cl-:2]>>[CH:1]([Cl:2])([O:9][CH3:8])[c:10]1[cH:6][cH:4][cH:3][cH:5][cH:7]1", "epd": [["LP-/Sigma+", [2], [2, 1]], ["Pi-/LP+", [1, 9], [9]]]}
{"reaction_name": "Paal–Knorr pyrrole formation", "rsmi": "[F:1][CH2:2][C:3](=[O:4])[CH:5]([H:24])[CH:20]([H:25])[C:6](=[O:7])[CH3:8].[N:9]([H:21])([H:22])[H:23]>>[F:1][CH2:2][c:3]1[n:9]([H:23])[c:6]([CH3:8])[cH:20][cH:5]1.[O:4]([H:21])[H:24].[O:7]([H:22])[H:25]", "epd": [["LP-/Sigma+", [9], [3, 9]], ["Pi-/LP+", [3, 4], [4]], ["LP-/Sigma+", [4], [4, 21]], ["Sigma-/LP+", [9, 21], [9]], ["Sigma-/LP+", [3, 4], [4]], ["LP-/Sigma+", [4], [4, 24]], ["Sigma-/LP+", [5, 24], [5]], ["Pi-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [7, 22]], ["Sigma-/LP+", [9, 22], [9]], ["LP-/Sigma+", [9], [6, 9]], ["Sigma-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [7, 25]], ["Sigma-/LP+", [20, 25], [20]], ["LP-/Pi+", [5], [3, 5]], ["LP-/Pi+", [20], [6, 20]]]}
{"reaction_name": "Michael addition", "rsmi": "[O-:1][C:20](=[CH:2][c:5]1[cH:9][cH:3][cH:31][cH:4][cH:10]1)[O:30][CH2:32][CH3:8].[S:6]([c:12]1[cH:22][cH:16][cH:14][cH:19][cH:25]1)([C:21]([S:7]([c:13]1[cH:23][cH:17][cH:15][cH:18][cH:24]1)(=[O:26])=[O:27])=[CH2:11])(=[O:28])=[O:29]>>[O:1]=[C:20]([CH:2]([c:5]1[cH:9][cH:3][cH:31][cH:4][cH:10]1)[CH2:11][C-:21]([S:6]([c:12]1[cH:22][cH:16][cH:14][cH:19][cH:25]1)(=[O:28])=[O:29])[S:7]([c:13]1[cH:23][cH:17][cH:15][cH:18][cH:24]1)(=[O:26])=[O:27])[O:30][CH2:32][CH3:8]", "epd": [["LP-/Pi+", [1], [20, 1]], ["Pi-/Sigma+", [2, 20], [2, 11]], ["Pi-/LP+", [11, 21], [21]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:3][C:19]1=[C:21]([Cl:17])[C:6](=[O:10])[C:5](=[O:9])[C:22]([Cl:18])=[C:20]1[Cl:4].[cH:1]1[cH:11][cH:7][c:15]2[c:2]([cH:23]1)[CH:24]([Zn-:14]([Cl:12])[Cl:13])[CH:16]=[CH:8]2>>[Cl:12][Zn:14][Cl:13].[cH:1]1[cH:11][cH:7][c:15]2[c:2]([cH:23]1)[CH:24]([C:5]1([O-:9])[C:6](=[O:10])[C:21]([Cl:17])=[C:19]([Cl:3])[C:20]([Cl:4])=[C:22]1[Cl:18])[CH:16]=[CH:8]2", "epd": [["Sigma-/Sigma+", [24, 14], [24, 5]], ["Pi-/LP+", [5, 9], [9]]]}
